US04500533
2-(4-Chlorophenyl)-4,5-bis(4-methoxyphenyl)pyrimidine
A suspension of 9.34 g. of (4-methoxyphenyl)-[1-(4-methoxyphenyl)-2-dimethylaminovinyl]ketone, 5.73 g. of 4-chlorobenzamidine hydrochloride, and 6.73 g. of potassium t-butoxide in 200 ml. of toluene was allowed to reflux for 2.5 hours and then stirred overnight at room temperature. The suspension was extracted twice each with 200 ml. of water. The combined water extracts were back-extracted with 100 ml. of toluene. The combined toluene solutions were washed with 100 ml. of a saturated sodium chloride solution. The organic solution was then dried over sodium sulfate and evaporated in vacuo. The residue was purified by chromatography over silica gel. The appropriate fractions were evaporated to dryness and crystallized from Skelly B to provide 3.97 g. of the desired title product, m.p. about 151°-153° C.

reactant | (4-methoxyphenyl)-[1-(4-methoxyphenyl)-2-dimethylaminovinyl]ketone | COC1=CC=C(C=C1)C(=O)C(=CN(C)C)C1=CC=C(C=C1)OC | C19H21NO3
reactant | 4-chlorobenzamidine hydrochloride | Cl.ClC1=CC=C(C(=N)N)C=C1
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Chlorophenyl)-4,5-bis(4-methoxyphenyl)pyrimidine | ClC1=CC=C(C=C1)C1=NC=C(C(=N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C24H19ClN2O2
